US04594341
6-t-butoxycarbonylamino-perhydro-1,4-thiazocin-5-one
N-t-Butoxycarbonyl-S-(2-aminoethyl)-D,L-homocysteine (0.1 g) and hydroxysuccinimide (0.044 g) are dissolved in 4 ml of DMF. Dicyclohexylcarbodiimide (0.086 g) in 1 ml of DMF is added dropwise. After 4 days at room temperature, the reaction mixture is filtered, and then lyophilized. The residue is taken up in methylene chloride. Again insoluble white solid is removed by filtration. The crude product is chromatographed on silica gel (20:1 chloroform-methanol) to afford the product as a white solid (0.02 g). The NMR spectrum (in MeOH-d4) shows a multiplet between 4.4 and 4.8, a multiplet between 3.2 and 3.4, complex absorptions between 2.2 and 2.7, and between 1.5 and 1.9, and a singlet at 1.2.

reactant | N-t-Butoxycarbonyl-S-(2-aminoethyl)-D,L-homocysteine | 0.1 g | C(C)(C)(C)OC(=O)NC(CCSCCN)C(=O)O | C11H22N2O4S
reactant | hydroxysuccinimide | 0.044 g | OC1C(=O)NC(C1)=O | C4H5NO3
reactant | Dicyclohexylcarbodiimide | 0.086 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 6-t-butoxycarbonylamino-perhydro-1,4-thiazocin-5-one | 0.02 g | C(C)(C)(C)OC(=O)NC1C(NCCSCC1)=O | C11H20N2O3S
